Name:  ___                         Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Advil / aspirin
 
Attending: ___
 
Chief Complaint:
Syncope
 
Major Surgical or Invasive Procedure:
PPM placement ___

 
History of Present Illness:
Ms. ___ is a ___ year old male with PMH notable for HTN, HLD, 
pAFib (on coumadin), and hx. of bradycardia who presents with 
syncope.  
Pt. was in his usual state of health until the afternoon of 
presentation when he experienced an episode of loss of 
consciousness. Pt. had felt well and was shopping with his wife 
at Stop and Shop when he reached up to a top shelf to grab an 
item with his right arm. He reached with the arm direction next 
to his neck. Pt. believes that he felt a sudden lightheadedness 
sensation associated with a "rush" sensation to his head. He 
then suddenly lossed consciousness. The pt's wife states that 
the pt. fell on his buttock region and back. He denies any head 
trauma. Pt's wife estimates that the pt. was unconcious for less 
than 1 minute. His wife witnessed no myoclonic activity. He did 
notice some facial flushing. Pt. then believes that he woke up 
soon after without difficulty. He felt completely normal. He 
denies any diaphoresis, warmness, blurry vision, no urinary or 
stool incontinence, tongue trauma.  
On the morning of this episode, pt. played doubles tennis and 
then swam which is especially active day. He did consume some 
fluids during his activities on ___. He typically swims 
___ through ___ (typically almost half a mile; 12 to 16 
laps). Denies chest pain during swimming. He denies DOE, 
orthopnea, PND, chronic lightheadedness, dizziness, ___ edema, or 
palpitations. Pt. has a history of palpitations. He denies 
having palpitations on the day of presentation. He did take an 
additional ___ tab of metoprolol given the episode of syncope, 
however denied palpitations at this time (his usual reason for 
taking an extra ___ tab). He denies fevers, chills, cough, 
nausea, vomiting, abdominal pain, diarrhea, or dysuria.  
After the episode of syncope, pt. finished grocery shopping 
(lifting 24 bottles of water) and went home. Pt. called his PCP. 
He saw his PCP who referred him to ___ for further evaluation. 
 
ED Course (labs, imaging, interventions, consults):  
- Initial Vitals/Trigger: 98.4 53 156/72 16 99% ra  
- EKG: Sinus bradycardia at 52 bpm. No ischemic changes. Normal 
axis, normal intervals, no changes from prior.  
- Exam: Notable for subtle bruising of the back of the neck and 
substantial brusing over the lower back. RRR w/o m/r/g. Neuro 
exam wnl (CN's and strength).  
- Labs were significant for normal CBC, unremarkable chem 7, INR 
2.9, trop x1, UA unremarkable, UCx pending  
- Imaging revealed NCHCT without intracranial hemorrhage.  
- ___ was consulted who recommended admission to ___  
Vitals prior to transfer were: 97.7 50 173/72 18 99% RA  
Upon arrival to the floor, pt. is asymptomatic  
 
Past Medical History:
#HTN  
#HLD  
#Paroxysmal Atrial Fibrillation - On Coumadin  
#OA  
#Bradycardia - Typically in the low to mid ___ (per pt.)  
#PUD (gastric)  
#Hearing loss  
#Erectile Dysfunction  
#BPH  
#Hx. of colonic adenoma  
#Cervical radiculopathy  

 
Social History:
___
Family History:
Denies family history of heart disease, CHF, MI, CAD, early 
sudden cardiac death, stroke, arrhythmia (including afib)  

 
Physical Exam:
Admission Physical Examination:
Vitals: 97.8, 157/69, 49, 18, 99% on RA  
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL  
Neck: Supple, JVP not elevated, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
Back: Superficial abrasions present in mid to lower central back 
___ to fall, no spinous process tenderness  
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation, 2+ reflexes bilaterally, gait 
deferred.  

Discharge Physical Examination:
VS 97.8 ___ 18 97-100%RA
I/O 8H 350/400
I/O 24H ___
Gen: NAD
HEENT: no JVD
Pulm: CTAB, PPM site clean/dry/intact on L chest
CV: RRR S1 and S2 no m/r/g
Ext: No ___ edema, WWP
 
Pertinent Results:
==ADMISSION LABS==
___ 08:15PM BLOOD WBC-8.1 RBC-5.08 Hgb-14.6 Hct-45.0 MCV-89 
MCH-28.7 MCHC-32.4 RDW-14.0 RDWSD-45.4 Plt ___
___ 08:15PM BLOOD Neuts-63.7 ___ Monos-8.0 Eos-3.7 
Baso-0.6 Im ___ AbsNeut-5.13 AbsLymp-1.92 AbsMono-0.64 
AbsEos-0.30 AbsBaso-0.05
___ 08:15PM BLOOD ___ PTT-54.6* ___
___ 08:15PM BLOOD Glucose-106* UreaN-18 Creat-1.0 Na-142 
K-5.0 Cl-104 HCO3-26 AnGap-17
___ 08:15PM BLOOD cTropnT-<0.01
___ 06:55AM BLOOD cTropnT-<0.01
___ 08:15PM BLOOD Calcium-9.5 Mg-2.3

==DISCHARGE LABS==
___ 07:30AM BLOOD WBC-6.4 RBC-4.59* Hgb-13.3* Hct-40.7 
MCV-89 MCH-29.0 MCHC-32.7 RDW-14.0 RDWSD-45.3 Plt ___
___ 07:30AM BLOOD ___ PTT-34.8 ___
___ 07:30AM BLOOD Glucose-84 UreaN-19 Creat-1.0 Na-138 
K-4.0 Cl-103 HCO3-23 AnGap-16
___ 07:30AM BLOOD Calcium-8.9 Phos-2.7 Mg-2.1

==OTHER RESULTS==
Head CT w/o contrast ___
1. No acute intracranial hemorrhage. 
2. Cortical atrophy with chronic small vessel ischemic disease.

Micro:
___ urine cx 

Chest Xray ___
IMPRESSION:  
Dual lead left-sided pacer with leads terminating over the 
expected location of the right atrium and right ventricle, 
respectively.  Cardiac and mediastinal contours are within 
normal limits.  Lungs appear well inflated without evidence of 
focal airspace consolidation, pulmonary edema, pleural effusions 
or pneumothorax. 

 
Brief Hospital Course:
Ms. ___ is a ___ year old male with PMH notable for HTN, HLD, 
pAFib (on coumadin), and hx. of bradycardia who presents with 
syncope.  

#Syncope ___ tachy-brady syndrome: Pt. presents with episode of 
syncope. The etiology of syncope was not clear on admission.  
However, after being monitored with telemetry, the patient had 
repeated conversion pauses from ___ seconds in duration some of 
which were symptomatic. This indicated a diagnosis of 
tachy-brady syndrome as the cause of syncope.  Given the 
repeated episodes the patient had a PPM placed urgently on 
___.  His warfarin was held for the procedure and he had Vit 
K 5mgx1 PO to reverse warfarin effect.  His metoprolol was also 
held given his bradycardia/pause.  He was started on 
prophylactic antibiotics for a ___fter discharge.  A 
chest xray on ___ confirmed appropriate PPM placement.  He 
was discharged on metoprolol XL 50 mg per day.  He was also 
discharged on cephalexin 500 mg Q12H to complete 3 day course 
(to end ___.  He will restart his warfarin on ___ night 
and will not require bridging.

CHRONIC ISSUES  
===============  
#Bradycardia: Pt. with known bradycardia, typical HRs ___ per 
pt. as he checks his HR and BP frequently at home.  He was 
monitored on tele and was found to have tachy-brady syndrome as 
above.  
#HTN: Continued amlodipine  
#Afib: Held metoprolol on admission and warfarin and gave 
vitamin K prior to PPM placement.  

Transitional Issues:
-Please complete cefalexin (keflex) course 500 mg every 12 hours 
through ___
-Warfarin held through ___
-Metoprolol XL dose increased to 50 mg daily
-Pt requires follow up with cardiology as scheduled
-Patient may not drive until further instructed by his 
cardiologist.
-Code: Full
-Contact: ___ (wife) ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Amlodipine 10 mg PO DAILY 
2. Warfarin 2.5 mg PO DAILY16 
3. Metoprolol Succinate XL 12.5 mg PO DAILY 
4. Viagra (sildenafil) UNKNOWN  oral DAILY:PRN 
5. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1. Amlodipine 10 mg PO DAILY 
2. Metoprolol Succinate XL 50 mg PO DAILY 
RX *metoprolol succinate 50 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0
3. Multivitamins 1 TAB PO DAILY 
4. Cephalexin 500 mg PO Q12H Duration: 2 Days 
RX *cephalexin 500 mg 1 tablet(s) by mouth Every 12 Hours Disp 
#*2 Tablet Refills:*0
5. Oxycodone-Acetaminophen (5mg-325mg) ___ TAB PO Q4H:PRN pain 
RX *oxycodone-acetaminophen 5 mg-325 mg 1 tablet(s) by mouth 
Every 4 Hours As Needed Disp #*8 Tablet Refills:*0
6. Viagra (sildenafil) 50 mg ORAL DAILY:PRN sexual activity 
7. Warfarin 2.5 mg PO DAILY16 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
Tachy-brady Syndrome

Secondary Diagnoses:
Bradycardia
Atrial Fibrillation
Hypertension
Hyperlipidemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure caring for you at ___.  You came to the 
hospital after having a syncopal episode at the grocery store.  
You were admitted to the hospital and minitored and it was found 
that the electrical conduction of the heart stopped briefly over 
night.  Given this finding, you needed a pacemaker placed.  You 
had this done on ___.  The procedure went well.  Please be 
sure to complete the final 2 days of your keflex antibiotics 
course and go to your follow up appointments as scheduled.  You 
should restart your coumadin on ___.  Thank you for allowing 
us to participate in your care.

Sincerely,

Your ___ Team
 
Followup Instructions:
___